US04371713
In the same reaction apparatus as in Example 4, a mixture of 50 g of 25% fuming sulfuric acid and 1.75 g of sodium borofluoride was dropwise added to 250 g of tetrahydrofuran at 0° C. over a period of one hour, and they were subjected to reaction at the same temperature for 2 hours. The final conversion was 66%, and the reaction system was solidified to form a wax-like mass. This product was then treated similarly to Example 4 to obtain colorless PTMG. The results of the analyses of the thus obtained PTMG and the catalytic efficiency α were as shown in Table 1.

reactant | sulfuric acid | 50 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium borofluoride | 1.75 g | [B-](F)(F)(F)F.[Na+]
reactant | tetrahydrofuran | 250 g | O1CCCC1 | C4H8O
product | PTMG | CCCCO[C@@H](CC)CO | C8H18O2
